US04792224
Into a dry 250 ml three-necked flask kept under dry nitrogen and fitted with a distillation column and internal thermometer was added 2-phenoxymethyl-3,4,4-trimethyl-1,3-oxazolidinium iodide (6.00 grams, 18.1 mmole) and 80 ml dry benzene. To the heterogeneous stirred solution was added in one portion triethylamine (3.64 grams, 36 mmole) followed by 5-nitroso-6-quinolinol (2.61 grams, 15 mmole). The solution was heated to reflux and maintained at reflux for 3 hours during which time water that formed during the course of the reaction was azeotropically removed. The solution was cooled with stirring overnight, decanted away from the tarry residue, and concentrated in vacuo. The product was isolated by flash chromatography to yield 0.16 grams of 2'-phenoxy-3,4,4-trimethylspiro[oxazolidine-2,3'-[3H]pyrido[3,2-f] [1,4]benzoxazine], which was characterized by appropriate spectral techniques. A toluene solution of the product changed to red when irradiated with ultraviolet light. The solution returned to its original hue after the UV light was removed.

reactant | 2-phenoxymethyl-3,4,4-trimethyl-1,3-oxazolidinium iodide | 18.1 mmole, 6.00 grams | [I-].O(C1=CC=CC=C1)CC1OCC([NH+]1C)(C)C
reactant | benzene | 80 ml | C1=CC=CC=C1 | C6H6
reactant | triethylamine | 36 mmole, 3.64 grams | C(C)N(CC)CC | C6H15N
reactant | 5-nitroso-6-quinolinol | 15 mmole, 2.61 grams | N(=O)C1=C2C=CC=NC2=CC=C1O | C9H6N2O2
solvent | water | O | H2O
product | 2'-phenoxy-3,4,4-trimethylspiro[oxazolidine-2,3'-[3H]pyrido[3,2-f] [1,4]benzoxazine] | 0.16 grams | O(C1=CC=CC=C1)C=1C2(OC3=C(N1)C1=C(C=C3)N=CC=C1)OCC(N2C)(C)C | C22H21N3O3
